US07083516B2
Triiodomesitylene is converted under acetylating conditions in an oxidation reaction with potassium permanganate/acetic anhydride/acetic acid/sulfuric acid into triacetate (yield: 35%). The triacetate is isolated and saponified with potassium carbonate in methanol to tris alcohol (yield: 94%). The tris alcohol is then reacted to form tris aldehyde by Swern oxidation in dimethyl sulfoxide as a solvent in a yield of 67%.

reactant | Triiodomesitylene | IC1=C(C(=C(C(=C1C)I)C)I)C | C9H9I3
reactant | potassium permanganate acetic anhydride acetic acid sulfuric acid | [Mn](=O)(=O)(=O)[O-].[K+].C(C)(=O)OC(C)=O.C(C)(=O)O.S(O)(O)(=O)=O
product | triacetate | yield: 35% | CC(=O)CC(=O)CC(=O)O | C6H8O4
